US07576215B2
A solution of 2-benzoyl-3-(2-trifluoromethyl-phenylamino)-acrylic acid ethyl ester(8.2 g, 22.4 mmol) in Dowtherm (120 ml) was heated to reflux. After 4 hr, the reaction was cooled and poured in hexane. The resulting solid was filtered and washed with hexane to give (4-hydroxy-8-trifluoromethyl-quinolin-3-yl)-phenyl-methanone (4.0 g, Yield=56%); MS (ESI) m/z 318(M+H)+; Anal Calcd for C17H10F3NO2: C, 63.36; H, 3.18; N, 4.41. Found: C, 63.96; H, 3.14; N, 4.25.

reactant | 2-benzoyl-3-(2-trifluoromethyl-phenylamino)-acrylic acid ethyl ester | 22.4 mmol, 8.2 g | C(C)OC(C(=CNC1=C(C=CC=C1)C(F)(F)F)C(C1=CC=CC=C1)=O)=O | C19H16F3NO3
solvent | Dowtherm | 120 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | hexane | CCCCCC | C6H14
product | (4-hydroxy-8-trifluoromethyl-quinolin-3-yl)-phenyl-methanone | 4.0 g, Yield=56% | OC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C17H10F3NO2
